US04855301
A solution of 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, (S)-1-methyl-2-[methyl(phenylmethyl)amino]ethyl ester (2.20 g, 4.87 mmol) and pyridine (2.36 ml, 29.2 mmol) in dichloromethane (20 ml) in an ice bath under argon was treated dropwise, via addition funnel, with a solution of 4-nitrophenylchloroformate (1.08 g, 5.36 mmol) in dichloromethane (20 ml). The reaction was then stirred in the ice bath for 15 minutes and evaporated. The residue was coevaporated with toluene to remove pyridine. The residue was then taken up in tetrahydrofuran (50 ml) and methanol (25 ml) and treated with 3N hydrochloric acid (5.0 ml, pH 1). After stirring at ambient temperature for 1.5 hours, the reaction was quenched by pouring into cold (ice bath) saturated sodium bicarbonate. After evaporating to near dryness, the mixture was extracted with ethyl acetate. The combined organic phase was washed with saturated sodium chloride, dried (potassium carbonate), and evaporated to give 3,4-dihydro-6-methyl-4-(3-nitrophenyl)-2-oxo-3,5-pyrimidinedicarboxylic acid, 5[(S)-1-methyl-2-[methyl(phenylmethyl)methyl)amino)ethyl], 3-(4-nitrophenyl)ester as a brown solid (2.38 g, 83%). TLC (10% acetone/dichloromethane) two major spots, Rf =0.25 and 0.39.

reactant | 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, (S)-1-methyl-2-[methyl(phenylmethyl)amino]ethyl ester | 4.87 mmol, 2.20 g | COC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O[C@H](CN(CC1=CC=CC=C1)C)C)C | C24H28N4O5
reactant | pyridine | 29.2 mmol, 2.36 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylchloroformate | 5.36 mmol, 1.08 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,4-dihydro-6-methyl-4-(3-nitrophenyl)-2-oxo-3,5-pyrimidinedicarboxylic acid | CC1=C(C(N(C(N1)=O)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C13H11N3O7
